US08871753B2
Step A: 6-Chloro-17-oxa-14-thia-2,4,8,24-tetraazatetracyclo[16.3.1.1(3,7).1(9,13)]tetracosa-1(22),3(24),4,6,9(23),10,12,18,20-nonaen-20-amine
A solution of 6-chloro-17-oxa-14-thia-2,4,8,24-tetraazatetracyclo[16.3.1.1(3,7).1(9,13)]tetracosa-1(22),3(24),4,6,9(23),10,12,18,20-nonaene-20-carboxylic acid (0.40 g, 0.95 mmol) in tetrahydrofuran (10 mL) at 0° C. was treated with triethylamine (0.53 mL, 3.8 mmol) and diphenylphosphonic acid (0.45 mL, 2.1 mmol) and stirred at 20° C. for 2 h. The reaction mixture was poured into water (50 mL) and ethyl acetate (150 mL). The ethyl acetate layer was separated, diluted with water (50 mL) and heated at 100° C. for 8 h. The reaction mixture was filtered and the organic layer from the filtrate was separated and washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product as a crude yellow. This material was treated with ethyl acetate and filtered. The filtrate was concentrated to give the desired product (0.29 g, 78%) as a tan solid. LCMS for C18H17ClN5OS (M+H)+: m/z=385.9.

reactant | 6-chloro-17-oxa-14-thia-2,4,8,24-tetraazatetracyclo[16.3.1.1(3,7).1(9,13)]tetracosa-1(22),3(24),4,6,9(23),10,12,18,20-nonaene-20-carboxylic acid | 0.95 mmol, 0.40 g | ClC=1C=NC=2NC=3C=C(C=C(OCCSC4=CC=CC(NC1N2)=C4)C3)C(=O)O | C19H15ClN4O3S
reactant | triethylamine | 3.8 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic acid | 2.1 mmol, 0.45 mL | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)=O | C12H11O3P
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-17-oxa-14-thia-2,4,8,24-tetraazatetracyclo[16.3.1.1(3,7).1(9,13)]tetracosa-1(22),3(24),4,6,9(23),10,12,18,20-nonaen-20-amine | ClC=1C=NC=2NC=3C=C(C=C(OCCSC4=CC=CC(NC1N2)=C4)C3)N | C18H16ClN5OS
